US06716843B2
(S)-N-[5-Amino-6-oxo-6-(1-pyrrolidinyl)-hexyl]-cyclohexanesulphonamide Hydrochloride
Starting from (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine, cyclohexanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N6-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-lysine | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C19H28N2O6
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[5-Amino-6-oxo-6-(1-pyrrolidinyl)-hexyl]-cyclohexanesulphonamide Hydrochloride | Cl.N[C@@H](CCCCNS(=O)(=O)C1CCCCC1)C(N1CCCC1)=O | InChI=1S/C16H31N3O3S.ClH/c17-15(16(20)19-12-6-7-13-19)10-4-5-11-18-23(21,22)14-8-2-1-3-9-14;/h14-15,18H,1-13,17H2;1H/t15-;/m0./s1
